US09079865B2
A 50-mL, 3-necked, round-bottomed flask was charged with a suspension of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.200 g) in 1:1 CH2Cl2: AcOEt (25 mL). 2-Hydrazinopyrazine (0.062 g) was added at −40° C. followed by T3P (50%) (0.432 g) and DIPEA (0.147 g). The reaction mixture was stirred for 30 min at −40° C. before being concentrated under reduced pressure (35° C., 20 mmHg). The crude oil was purified by preparative TLC using 5% MeOH in CH2Cl2 as mobile phase (under ammonia atmosphere) to afford 40 mg (yield: 16%) of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyrazin-2-yl)acrylohydrazide. 1H NMR (400 MHz, DMSO-d6) δ, 10.53 (s, 1H), 9.59 (s, 1H), 9.14 (s, 1H), 8.53 (s, 2H), 8.29 (s, 1H), 8.13 (s, 1H), 8.06-8.07 (m, 1H), 7.92-7.93 (d, J=2.8 Hz, 1H), 7.51-7.53 (d, J=10.4 Hz, 1H), 6.07-6.10 (d, J=10.4 Hz, 1H); LCMS for C17H12F6N7O [M+H]+ predicted: 444.31. found: 444.49 (RT 2.70 min, purity: 95.78%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.200 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 2-Hydrazinopyrazine | 0.062 g | N(N)C1=NC=CN=C1 | C4H6N4
reactant | T3P | 0.432 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.147 g | CCN(C(C)C)C(C)C | C8H19N
solvent | AcOEt | 25 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyrazin-2-yl)acrylohydrazide | 40 mg, yield: 16% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1=NC=CN=C1)(F)F | C17H11F6N7O
